US04051233
2-Cyanonaphthalenes are prepared by refluxing 2-formylnaphthalene with hydroxylamine hydrochloride and sodium acetate in ethanol to furnish the corresponding which is refluxed with acetic anhydride in the presence of an acid catalyst to furnish 2-cyanonaphthalene.

reactant | 2-formylnaphthalene | C(=O)C1=CC2=CC=CC=C2C=C1 | C11H8O
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | C(C)O | C2H6O
product | 2-cyanonaphthalene | C(#N)C1=CC2=CC=CC=C2C=C1 | C11H7N
